US08017801B2
Before the start of the reaction, the loop reactor is filled with a solution of 24.4% by weight of tert-butyl hydroperoxide and 12.7% by weight of potassium hydroxide in water. Initially 33.6 kg/h of a solution of 70% by weight of tert-butyl hydroperoxide in water, 27.0 kg/h of a solution of 45% by weight of potassium hydroxide in water, 35.0 kg/h of water and 18.4 kg/h of isobutyroyl chloride are then fed to the loop reactor. Cooling with cooling water keeps the internal temperature at 11° C. in the loop reactor and at 12° C. in the stirred cell reactor. The partial neutralization is effected with 3.6 kg/h of 31% by weight hydrochloric acid with addition of 8.0 kg/h of isododecane at a temperature of 8° C. The organic phase is extracted with 33.0 kg/h of a 15% by weight aqueous solution of potassium hydroxide. This affords 39.8 kg/h of aqueous extract comprising 17.1% by weight of tert-butyl hydroperoxide and 12.2% by weight of potassium hydroxide, which are feeded into the loop reactor. From the time at which aqueous extract is recycled into the loop reactor, the metered addition of the feedstocks is changed to 23.8 kg/h of a solution of 70% by weight of tert-butyl hydroperoxide in water, 16.0 kg/h of a solution of 45% by weight of potassium hydroxide in water and 15.8 kg/h of water. After the extraction, the organic phase is washed with 36 kg/h of a solution of 3% by weight of sodium sulphite and 1% by weight of sulphuric acid, and dried by stripping at 18° C. and 58 mbar. 33.4 kg/h of a 76.5% by weight solution of tert-butyl peroxyisobutyrate in isododecane are obtained (92.8% yield based on isobutyroyl chloride).

reactant | tert-butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | isobutyroyl chloride | C(C(C)C)(=O)Cl | C4H7ClO
reactant | hydrochloric acid | Cl | ClH
reactant | isododecane | CCCCCCCCCC(C)C | C12H26
solvent | water | O | H2O
product | tert-butyl peroxyisobutyrate | 92.8% yield | C(C(C)C)(=O)OOC(C)(C)C | C8H16O3
